US09034866B2
Synthesis of (R)-3-((2-chlorophenoxy)methyl)-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
Similar to as in General Procedure E with the exceptions of using Pd(PPh3)4 in DMSO, 10-bromo-3-((2-chlorophenoxy)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide (prepared similarly to 10-bromo-3-((2-methyl-1H-benzo[d]imidazol-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide replacing 2-methylbenzimidazole with 2-chlorophenol) was reacted with (R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol to give the titled compound as a colorless solid (39 mg, 28%).

reactant | 10-bromo-3-((2-methyl-1H-benzo[d]imidazol-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CN3C(=NC2=C3C=CC=C2)C)C1 | C21H18BrN5O2
reactant | 2-chlorophenol | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | (R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol | CC1=CC(=NO1)[C@@](C)(C#C)O | C8H9NO2
solvent | DMSO | CS(=O)C | C2H6OS
solvent | 10-bromo-3-((2-chlorophenoxy)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)COC3=C(C=CC=C3)Cl)C1 | C19H15BrClN3O3
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-3-((2-chlorophenoxy)methyl)-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 39 mg, 28% | ClC1=C(OCC2=C(N=C3N2CCOC2=C3C=C(C=C2)C#C[C@](C)(C2=NOC(=C2)C)O)C(=O)N)C=CC=C1 | C27H23ClN4O5
